US07598264B2
6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N-dimethyl-2-(4-methyl-phenyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
A solution of 6-(3-chloro-4-fluorobenzyl)-4-methoxy-N,N-dimethyl-2-(4-methyl-phenyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (0.054 g, 0.108 mmol) in anhydrous dichloromethane (10 mL) was treated with a solution of boron tribromide (0.3 mL, 1M) in dichloromethane. The reaction mixture was stirred at room temperature for 3 hours. The product mixture was concentrated under vacuum, and the residue subject to preparative reverse phase HPLC purification. Collection and lyophilization of appropriate fractions provide the titled compound.

reactant | 6-(3-chloro-4-fluorobenzyl)-4-methoxy-N,N-dimethyl-2-(4-methyl-phenyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.108 mmol, 0.054 g | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C2=CC=C(C=C2)C)=O)OC)=O)C=CC1F | C26H25ClFN3O4
reactant | boron tribromide | 1M, 0.3 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N-dimethyl-2-(4-methyl-phenyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C2=CC=C(C=C2)C)=O)O)=O)C=CC1F | C25H23ClFN3O4
